US07084139B2
Benzyl (3R)-1-((2S)-2-{(3S)-3-[(2-naphthylsulfonyl)amino]-2-oxopyrrolidin-1-yl}propanoyl)piperidin-3-ylcarbamate
A mixture of benzyl (3R)-1-[(2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoyl]piperidin-3-ylcarbamate (0.350 g), 10% palladium on carbon (0.035 g) and ethanol (1000 ml) was stirred under an atmosphere of hydrogen for 17 h. The reaction mixture was filtered through Harbolite™ and the filtrate was concentrated under reduced pressure to give an oil. The oil was partially purified using SPE (silica, eluting with methanol and then 10% aqueous ammonia in methanol) and then fully purified using mass directed preparative h.p.l.c. to give the title compounds (Example 403, 0.01 g; Example 404, 0.028 g), both as oils.

reactant | benzyl (3R)-1-[(2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoyl]piperidin-3-ylcarbamate | 0.350 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N1C[C@@H](CCC1)NC(OCC1=CC=CC=C1)=O)C)=O | C30H33ClN4O6S
catalyst | palladium on carbon | 0.035 g | [Pd] | Pd
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | Benzyl (3R)-1-((2S)-2-{(3S)-3-[(2-naphthylsulfonyl)amino]-2-oxopyrrolidin-1-yl}propanoyl)piperidin-3-ylcarbamate | 0.01 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N1C[C@@H](CCC1)NC(OCC1=CC=CC=C1)=O)C)=O | C30H34N4O6S
